US06281227B1
C. (4-Iodo-pyridin-3-yl)-carbamic acid tert-butyl ester
To a solution of (pyridin-3-yl)-carbamic acid tert-butyl ester (prepared according to the procedure described in Tetrahedron Lett. 1994, 35, 9003) (2.2 g, 11.3 mmol) in 20 mL of THF at −78° C. is added dropwise t-BuLi (15.4 mL of a 1.7 M solution in pentane, 26 mmol). After 15 minutes, the solution is warmed to −10° C. for 3 hours. The mixture is cooled to −78° C. and a solution of iodine (5.7 g, 22.4 mmol) in 20 mL of THF is added via syringe. The resulting mixture is stirred at −78° C. for 1 hour, then allowed to warm to room temperature and quenched with saturated NH4Cl solution. The aqueous layer is extracted with EtOAc (2×). The combined organic layers are washed with 1 N HCl, water, dilute Na2S2O3, saturated NaHCO3 and saturated NaCl. The organic layer is then dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 5% EtOAc/CH2Cl2 to 20% EtOAc/CH2Cl2 to yield the title compound (1.3 g, 4.06 mmol) as a brown solid.

reactant | (pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC=CC1)=O | C10H14N2O2
reactant | t-BuLi | [Li]C(C)(C)C
reactant | iodine | 22.4 mmol, 5.7 g | II | I2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-Iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 4.06 mmol, 1.3 g | C(C)(C)(C)OC(NC=1C=NC=CC1I)=O | C10H13IN2O2
